US04812164
using 1-(4-bromo-2-fluoro-5-isopropoxyphenyl)-2-chloro-4-trifluoromethyl-6(1H)-pyrimidinone and sodium ethylate in ethanol there is obtained 2-ethoxy-1-(4-bromo-2-fluoro-5 -isopropoxyphenyl)-4-trifluoromethyl-6(1H)-pyrimidinone, m.p. 106°-108° C.;

reactant | 1-(4-bromo-2-fluoro-5-isopropoxyphenyl)-2-chloro-4-trifluoromethyl-6(1H)-pyrimidinone | BrC1=CC(=C(C=C1OC(C)C)N1C(=NC(=CC1=O)C(F)(F)F)Cl)F | C14H10BrClF4N2O2
reactant | sodium ethylate | CC[O-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 2-ethoxy-1-(4-bromo-2-fluoro-5 -isopropoxyphenyl)-4-trifluoromethyl-6(1H)-pyrimidinone | C(C)OC=1N(C(C=C(N1)C(F)(F)F)=O)C1=C(C=C(C(=C1)OC(C)C)Br)F | C16H15BrF4N2O3
